US08754079B2
228.2 4-[2-((1S,3S)-3-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
A mixture of 4-[2-((1S,3S)-3-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (150 mg), di-tert-butyl dicarbonate (173 mg) and triethylamine (145 μl) in THF (10 ml) was stirred at rt overnight. The reaction mixture was concentrated and the crude partitioned between DCM and water. The organic layer was dried, concentrated and the residue was triturated with diisopropyl ether to give the desired compound.

reactant | 4-[2-((1S,3S)-3-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 150 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](CC2)N)S1)C | C20H21FN4O3S
reactant | di-tert-butyl dicarbonate | 173 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 145 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[2-((1S,3S)-3-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](CC2)NC(=O)OC(C)(C)C)S1)C | C25H29FN4O5S
